### PR TITLE
feat(Algebra/GroupWithZero/Range): add lemmas

### PR DESCRIPTION
**Pull request by mariainesdff**
Co-authored-by: @xgenereux 

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/GroupWithZero/Range.lean [hunk 1]
```diff
@@ -286,7 +292,25 @@ def mk (r s : A) (hr : f r ≠ 0) (hs : f s ≠ 0) : valueGroup f :=
...
+lemma mk_eq_div {r s : A} (hr : f r ≠ 0) (hs : f s ≠ 0) :
+    (valueGroup.mk f r s hr hs : Bˣ) = f s / f r := by
+  simp [valueGroup.mk, inv_mul_eq_div]
+
+theorem exists_mk (f : A →*₀ B) (x : valueGroup f) :
+    ∃ r s hr hs, x = valueGroup.mk f r s hr hs := by
+  have hx := x.2
+  rw [mem_valueGroup_iff_of_comm'] at hx
+  obtain ⟨r, hr, s, hs, hrs⟩ := hx
+  exact ⟨r, s, hr, hs,  by simp [valueGroup.mk, ← hrs, mul_comm]⟩
```
Comment (Ruben-VandeVelde) [inline Mathlib/Algebra/GroupWithZero/Range.lean]:
```suggestion
  exact ⟨r, s, hr, hs, by simp [valueGroup.mk, ← hrs, mul_comm]⟩
```

**Review by Ruben-VandeVelde — APPROVED** [review]
maintainer merge
